US07825265B2
Thiophene-3-yl cyclohexene
3-Thiophene boronic acid (128 mg, 1.00 mmol), cyclohexenyl triflate (230.2 mg, 1.00 mmol) was dissolved in Et2O (4 mL) and 2M Na2CO3 (1 mL). The mixture was degassed and Pd(PPh3)4 (0.05 mmol) added. After stirring at room temperature for 4 h the mixture was filtered through celite, rinsed with Et2O, dried (Na2SO4) and subjected to column chromatography (silica, pentane) to yield 150 mg of a volatile liquid. GC-MS: M+=164.

reactant | 3-Thiophene boronic acid | 1.00 mmol, 128 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | cyclohexenyl triflate | 1.00 mmol, 230.2 mg | O(S(=O)(=O)C(F)(F)F)C1=CCCCC1 | C7H9F3O3S
solvent | Et2O | 4 mL | CCOCC | C4H10O
solvent | Na2CO3 | 2M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.05 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Thiophene-3-yl cyclohexene | 150 mg | S1C=C(C=C1)C1=CCCCC1 | C10H12S
